* Z:\celera\projects\Simplis\playjoseph\WALTZ\301c\verification\sim_SERVICEwaltz.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'
 
*BrickToolsVersion:0.112  projname:SERVICEwaltz
.node_map porb 25
.node_map kelvin_GNDservice 26
.node_map BIAS 20
.node_map REF0V9 21
.node_map VCC 19
.node_map ok_service 23
.node_map GND 27
.node_map IN 18
.node_map EN 22

.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 10.05m  0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000
.globalvar  celera_i2c_frequency_KHz=100


X$SERVICEwaltz 18 19 20 21 22 23 19 25 26 SERVICEwaltz
X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
** From Z:\celera\projects\Simplis\playjoseph\WALTZ\301c\verification\FORCE_SERVICEwaltz.sxcmp


** From Z:\celera\projects\Simplis\playrich\Waltz\WALTZ2\301c\design\SERVICEwaltz.sxcmp
.subckt SERVICEwaltz 36 38 37 40 39 42 41 44 43
*#hierarchy
.node_map porb 44
.node_map kelvin_GNDservice 43
.node_map BIAS 37
.node_map go_vcc 46
.node_map REF0V9 40
.node_map VCC 38
.node_map ok_service 42
.node_map ok_reference 45
.node_map IN 36
.node_map EN 39
.node_map kelvin_VCC 41
X$DEBUG 45 42 40 44 46 SERVICEwaltzDEBUG0
X$SERVICE 38 36 40 39 45 37 42 41 44 43 46 SERVICEwaltzMAIN
X$U1 41 pinprobe vars: pinprobe_description='Kelvin_5V_Supply_Voltage' pinprobe_mode='input' pinprobe_input='kelvin' pinprobe_output='tbd'
X$U10 42 pinprobe vars: pinprobe_description='Bias_Module_OK' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U12 37 pinprobe vars: pinprobe_description='External_Vbias_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U13 36 pinprobe vars: pinprobe_description='Input_Supply' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
X$U14 40 pinprobe vars: pinprobe_description='900mV_Reference_Voltage' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U15 44 pinprobe vars: pinprobe_description='Power_On_Reset_Bar' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='tbd'
X$U2 35 brick vars: ibias=0 drm=1 dft=1 global=0 brick=0 revision=0 description='SERVICE_Brick' description1='Generate_Reference_VCC_5V_from_60V_input' description2='BIAS_enabled_at_3p8V' description3='VCC_ok_at_3p0V' description4='Accurate_reference_at_900mV' description5='OK_when_SERVICE_ready' description6='Debug_enabled' description7='text' description8='text' description9='text' description10='text'
X$U3 43 pinprobe vars: pinprobe_description='Kelvin_Ground' pinprobe_mode='input' pinprobe_input='kelvin' pinprobe_output='tbd'
X$U4 38 pinprobe vars: pinprobe_description='5V_Supply_Voltage' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad'
X$U9 39 pinprobe vars: pinprobe_description='Enable' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd'
.ends SERVICEwaltz

** From Z:\celera\projects\Simplis\playrich\Waltz\WALTZ2\301c\design\SERVICEwaltzDEBUG0.sxcmp
.subckt SERVICEwaltzDEBUG0 17 18 19 21 20
*#hierarchy
.node_map porb 21
.node_map go_vcc 20
.node_map REF0V9 19
.node_map ok_service 18
.node_map ok_reference 17
X$U1 17 pinprobe vars: pinprobe_description='ok_reference' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U12 20 pinprobe vars: pinprobe_description='Bias_3V8_ok_for_switching' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U15 20 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='SERVICEgo_vcc' dftprobe_description='Service_VCC_ready_for_switching' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$U16 19 pinprobe vars: pinprobe_description='900mV_Reference_Voltage' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U17 18 pinprobe vars: pinprobe_description='SERVICE_Brick_ready_flag' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U19 21 pinprobe vars: pinprobe_description='Power_On_Reset_Bar' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U2 17 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='SERVICEok_reference' dftprobe_description='Reference_OK' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$U3 19 dftprobeModel2 vars: dftprobe_mode='analog' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='SERVICEREF0V9' dftprobe_description='900mV_Reference' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$U4 16 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='text' description1='text' description2='text' description3='text' description4='text' description5='text' description6='text' description7='text' description8='text' description9='text' description10='text'
X$U6 18 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='SERVICEok_service' dftprobe_description='Service_OK' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
X$U7 21 dftprobeModel0 vars: dftprobe_mode='digital' digitalinfo='Only_Use_For_Digital' analoginfo='Only_use_for_Analog' dftprobe_note='Probe_Analog_Signal_less_than_VIN_and_when_disabled_is_rated_to_StandOff_Voltage' dftprobe_name='SERVICEporb' dftprobe_description='VCC_power_on_reset' dftprobe_highvoltage=6 dftprobe_enable=0 dftprobe_vmax=6
.ends SERVICEwaltzDEBUG0

** From Z:\celera\projects\Simplis\playrich\Waltz\WALTZ2\301c\design\SERVICEwaltzMAIN.sxcmp
.subckt SERVICEwaltzMAIN 71 72 73 74 75 76 77 78 79 80 81
*#hierarchy
.node_map porb 79
.node_map kelvin_GNDservice 80
.node_map BIAS 76
.node_map go_vcc 81
.node_map REF0V9 73
.node_map VCC 71
.node_map ok_service 77
.node_map ok_bias 84
.node_map ok 82
.node_map ok_reference 75
.node_map ok_comp 85
.node_map IN 72
.node_map go 83
.node_map EN 74
.node_map tap0 86
.node_map kelvin_VCC 78
X$OK 81 83 84 79 SERVICEwaltzOK
X$U1 73 pinprobe vars: pinprobe_description='900mV_Reference_Voltage' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U10 78 pinprobe vars: pinprobe_description='Kelvin_5V_Supply_Voltage' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U11 75 82 83 85 VESPAasmINPUT2
X$U12 76 pinprobe vars: pinprobe_description='External_VBias_Supply' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U14 75 pinprobe vars: pinprobe_description='ok_reference_module' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U16 85 71 75 81 86 59 73 60 61 58 comparatornoctlpins vars: comparator_model='comparator' comparator_hysteresismode='fixed' comparator_edge='rising' comparator_speed='slow' comparator_type='p' comparator_deglitch='yes' comparator_lowiq='no' comparator_datasheet_name='text' comparator_datasheet_description='text' bgcomp_accuracy='no' bgcomp_outputanalog='supply' bgcomp_note1='Usage' bgcomp_outputdigital='no' bgcomp_trim_name='text' bgcomp_trim_description='text' bgcomp_enable='yes' comparator_dft='no' comparatorsupply_reference='ground' comparatorsupply_threshold='50' comparatorsupply_edge='falling' comparatorsupply_output='analog' comparatorsupply_enable='analog' comparator_hysteresis=20 comparator_lowiqpor=0 bgcomp_threshold=1.2 bgcomp_maxcelpos=6 bgcomp_maxvin=6 comparator_vmax=6
X$U18 81 pinprobe vars: pinprobe_description='VCC_3V8_ok_for_switching' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U19 79 pinprobe vars: pinprobe_description='Power_On_Reset_Bar' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U2 82 77 delayfixed vars: delay_type='fixed' delay_units='us' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='fall' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=10 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1000
X$U20 86 69 68 67 66 65 64 63 78 80 70 resistordivider vars: resistordivider_disconnect='no' resistordivider_disconnect_tap='top' resistordivider_dft='no' resistordivider_rtotal=100 resistordivider_vresistortop=6 resistordivider_vmax=6 resistordivider_outputs=1 resistordivider_tap0=23.6 resistordivider_tap1=20 resistordivider_tap2=30 resistordivider_tap3=40 resistordivider_tap4=50 resistordivider_tap5=60 resistordivider_tap6=70 resistordivider_tap7=23
X$U23 80 pinprobe vars: pinprobe_description='Kelvin_Ground' pinprobe_mode='input' pinprobe_input='tbd' pinprobe_output='tbd'
X$U3 77 pinprobe vars: pinprobe_description='ok_service_module' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U4 75 73 79 56 71 reference  vars: reference_accuracy='yes' reference_trim_name='REFERENCEaccuracy' reference_trim_description='Reference_Accuracy_to_0.9V' reference_lowiq='na' reference_lowiq_name='text' reference_lowiq_description='text' reference_cc_trim='yes' reference_factory_name='REFCCacc' reference_factory_description='Curvature_Correction_Accuracy' reference_bgout='no' reference_buffer='yes' reference_dft='no' reference_ref=900m reference_lowiq_por=0 reference_ccn_por=0 reference_ccp_por=0 reference_ifb=1 reference_vmax=6
X$U5 74 pinprobe vars: pinprobe_description='External_Enable' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U6 54 brick vars: ibias=0 drm=0 dft=0 global=0 brick=0 revision=0 description='text' description1='text' description2='text' description3='text' description4='text' description5='text' description6='text' description7='text' description8='text' description9='text' description10='text'
X$U7 71 78 57 62 79 porb vars: porb_enable='no' porb_dft='no' porb_output='digital' porb_vmax=6
X$U8 71 pinprobe vars: pinprobe_description='5V_Internal_Supply' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U9 72 pinprobe vars: pinprobe_description='High_Voltage_Supply' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$vbias1 71 76 72 84 74 55 vbias vars: vbias_voutaccuracy='yes' vbias_trim_name='VCCaccuracy' vbias_trim_description='VCC_5V_Accuracy' vbias_discharge='no' vbias_enable='yes' vbias_enablevoltage='highvoltage' vbias_latch='no' vbias_okflag='yes' vbias_dft='no' vbias_vout=4.5 vbias_iout=20 vbias_inputs=2 vbias_maxvin1=60 vbias_uvlo=3.8 vbias_maxvin2=20 vbias_switchover=4.55 vbias_vmax=6
.ends SERVICEwaltzMAIN

** From Z:\celera\projects\Simplis\playrich\Waltz\WALTZ2\301c\design\SERVICEwaltzOK.sxcmp
.subckt SERVICEwaltzOK 28 29 30 31
*#hierarchy
.node_map porb 31
.node_map shut 35
.node_map reset 34
.node_map set 33
.node_map uvlo 28
.node_map ok_bias 30
.node_map ok_ibiasDELAY 32
.node_map ok 29
X$U1 28 24 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U10 27 34 delayfixed vars: delay_type='fixed' delay_units='ns' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='rise' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=50 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1k
X$U11 30 32 delayfixed vars: delay_type='fixed' delay_units='us' delay_accuracy='no' delay_accuracy_name='text' delay_accuracy_description='text' delay_edge='fall' delay_dft='no' delaycontrol_type='register' delaycontrol_name='text' delaycontrol_description='text' delaycontrol_units0='ns' delaycontrol_units1='ns' delaycontrol_units2='ns' delaycontrol_units3='ns' delaycontrol_units4='ns' delaycontrol_units5='ns' delaycontrol_units6='ns' delaycontrol_units7='ns' delayclock_control='pin' delayclock_datasheetname='text' delayclock_datasheetdescription='text' delayclock_accuracy='no' delayclock_accuracyname='text' delayclock_accuracydescription='text' delay_time=10 delay_0=0 delay_vmax=6 delaycontrol_outputs=2 delaycontrol_por=0 delaycontrol_time0=5 delaycontrol_time1=10 delaycontrol_time2=25 delaycontrol_time3=50 delaycontrol_time4=100 delaycontrol_time5=250 delaycontrol_time6=500 delaycontrol_time7=999 delayclock_options=2 delayclock_por=0 delayclock_count0=2 delayclock_count1=4 delayclock_count2=8 delayclock_count3=16 delayclock_0=0 delayclock_freq=1000
X$U12 33 29 34 25 31 srlatch vars: srlatch_vmax=6
X$U14 28 35 32 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U2 25 celeranoconn vars: ='%'
X$U3 24 33 34 nor2 vars: logicgate_type='nor2' logicgate_vmax=6
X$U4 35 26 31 nand2 vars: logicgate_type='nand2' logicgate_vmax=6
X$U5 30 pinprobe vars: pinprobe_description='BIAS_ok_input' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U6 28 pinprobe vars: pinprobe_description='VCC_uvlo_input' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U7 26 27 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U8 29 pinprobe vars: pinprobe_description='SERVICE_bias_ok_flag' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
X$U9 31 pinprobe vars: pinprobe_description='Power_on_reset' pinprobe_mode='tbd' pinprobe_input='tbd' pinprobe_output='tbd'
.ends SERVICEwaltzOK

** From Z:\celera\simplis\LIB\VESPA\VESPAasmINPUT2.sxcmp
.subckt VESPAasmINPUT2 7 8 9 6
*#hierarchy
.node_map Tstate 6
.node_map i0 7
.node_map i1 9
.node_map o 8
X$U1 6 pinprobe vars: pinprobe_description='state_blank_time'
X$U2 9 pinprobe vars: pinprobe_description='input1'
X$U3 8 pinprobe vars: pinprobe_description='INPUT1_output'
X$U4 6 9 5 7 nand3 vars: logicgate_type='nand3' logicgate_vmax=6
X$U5 5 8 inv vars: logicgate_type='inv' logicgate_vmax=6
X$U6 7 pinprobe vars: pinprobe_description='input0'
.ends VESPAasmINPUT2

.end
